US04997840
A solution of benzoic acid (30.3 g) and triethylamine (50.1 ml) in dichloromethane (150 ml) was added dropwise at 0° over a period of 15 minutes to the solution of 2'-(2-chloroacetyl)-5'-methyl-N-methylformanilide obtained above. The resultant solution was allowed to warm to ambient temperature and then heated under reflux overnight. After cooling the reaction mixture was washed with water (2×200 ml), dried over magnesium sulphate and evaporated to give crude 2-[4-methyl-2-(N-methylformamido)phenyl]-2-oxoethyl benzoate.

reactant | benzoic acid | 30.3 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 50.1 ml | C(C)N(CC)CC | C6H15N
reactant | 2'-(2-chloroacetyl)-5'-methyl-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=C(C=C1)C | C11H12ClNO2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-[4-methyl-2-(N-methylformamido)phenyl]-2-oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=C(C=C1)C)N(C=O)C | C18H17NO4
